data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_112295_1,[C:1]([C:4](/[C:5]([C:2]([H:14])([H:15])[H:16])=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:10])=[N:8]/[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]1=[C:5]([C:2]([H:14])([H:15])[H:16])[C:6]([C:3]([H:17])([H:18])[H:19])([H:10])[N:8]1[O:7][H:9])([H:11])([H:12])[H:13],59.165720000039386
MR_128764_0,[C:1]([c:3]1[o:5][c:2]([N:4]([H:8])[H:9])[n:6][n:7]1)([H:10])([H:11])[H:12]>>[C:1]([C:3]1[N:6]([C:2]([N:4]([H:8])[H:9])=[O:5])[N:7]1)([H:10])([H:11])[H:12],63.76278499995408
MR_241476_1,[C:1]1([O:5][H:8])([H:10])[C:2]([C:3]([O:6][H:9])=[O:7])([H:11])[O:4]1>>[C:1]([C:2]1([H:11])[C:3]([O:6][H:9])([O:7][H:8])[O:4]1)(=[O:5])[H:10],26.5150125000072
MR_418128_0,[C@@:1]([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])(/[C:6]([C:3]([H:17])([H:18])[H:19])=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:13])([N:7]([H:11])[H:12])[H:10]>>[C@:1]1([N:7]([H:11])[H:12])([H:10])[C@:6]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[O:9])[C@@:8]1([C:4]([H:20])([H:21])[H:22])[H:13],68.33914249999239
MR_250595_0,[C:1](/[C:3](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:10])[O:6]/[C:4](=[N:7]/[H:8])[H:9])([H:11])([H:12])[H:13]>>[C:1]([C:3]([C:5]([C:2]([H:14])([H:15])[H:16])(/[C:4](=[N:7]/[H:8])[H:9])[H:10])=[O:6])([H:11])([H:12])[H:13],62.291297499995295
MR_359728_0,[C:1](/[C:3](=[N:6]/[N:5]=[C:2](\[O:4][H:7])[H:8])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:3]1([H:9])[C:2]([O:4][H:7])([H:8])[N:5]=[N:6]1)([H:10])([H:11])[H:12],58.19184000000135
MR_9693_1,[C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:7])[H:6]>>[C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:6])[H:7],66.83376999999432
MR_115103_0,[C:1](/[N:9]=[C:5](\[C:6]([C:2]([H:14])([H:15])[H:16])[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])[O:8][H:10])([H:11])([H:12])[H:13]>>[C:1]([N:9]1[C:5]([O:8][H:10])=[C:6]([C:2]([H:14])([H:15])[H:16])[C:7]1([C:3]([H:17])([H:18])[H:19])[C:4]([H:20])([H:21])[H:22])([H:11])([H:12])[H:13],58.34369500001032
MR_117639_0,[C:1]1([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C@:2]([C:7](=[O:8])[H:11])([H:9])[C@@:3]1([C:6]([H:18])([H:19])[H:20])[H:10]>>[C:1](=[C:2]([C@@:3]([C:6]([H:18])([H:19])[H:20])([C:7](=[O:8])[H:11])[H:10])[H:9])([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17],65.66912999999204
MR_224832_0,[C:1](\[C:2]([H:16])([H:17])[H:18])([O:7][H:10])=[N:8]/[C:3]([N:4]([H:11])[H:12])([N:5]([H:13])[H:14])[C:6](=[O:9])[H:15]>>[C:1]([C:2]([H:16])([H:17])[H:18])([C:6](=[O:9])[H:15])([O:7][H:10])[N:8]=[C:3]([N:4]([H:11])[H:12])[N:5]([H:13])[H:14],59.84969499998897
MR_551445_1,[C:1]([N:2]([C:3]([N:4]([H:9])[H:10])=[O:7])[O:6][H:8])([N:5]([H:11])[H:12])([H:13])[H:14]>>[C:1]([N:5]([H:11])[H:12])([O:7]/[C:3](=[N:2]\[O:6][H:8])[N:4]([H:9])[H:10])([H:13])[H:14],48.66136999995106
MR_441960_2,[C:1](/[N:8]=[C:5](\[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([N:4]([H:9])[H:10])=[O:7])[H:12])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:8]=[C:5](\[O:7]/[C:3]([N:4]([H:9])[H:10])=[C:6](/[C:2]([H:16])([H:17])[H:18])[H:12])[H:11])([H:13])([H:14])[H:15],63.66991500004588
MR_243411_0,[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3]([H:15])([H:16])[H:17])=[O:7])([N:5]([H:8])[H:10])[N:6]([H:9])[H:11]>>[C:1]1([N:5]([H:8])[H:10])([N:6]([H:9])[H:11])[C:4]([C:2]([H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])[O:7]1,39.35178000002082
MR_210881_0,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:12])(/[C:6](=[N:8]\[H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:5](/[C:3]([H:16])([H:17])[H:18])[C:7]([C:4]([H:19])([H:20])[H:21])(/[C:6](=[N:8]\[H:10])[H:11])[H:12])[H:9],71.86004500002028
MR_290759_0,[C:1]1([H:13])([H:14])[C:3]([N:6]([H:11])[H:12])=[N:8][N:2]([N:5]([H:9])[H:10])[C:4]1=[C:7]([H:15])[H:16]>>[C:1]1([H:13])([H:14])[C:3]([N:6]([H:11])[H:12])(/[N:8]=[N:2]/[N:5]([H:9])[H:10])[C:4]1=[C:7]([H:15])[H:16],72.60928000001911
MR_703995_1,[C:1](/[C:4](=[N:7]\[N:2]([H:9])[H:10])[H:12])(/[C:5](=[C:3](\[O:6][H:8])[H:11])[H:15])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:4](/[N:7]=[N:2]/[H:9])([H:12])[C:5]1([C:3]([O:6][H:8])([H:10])[H:11])[H:15],44.401272500006
MR_171355_1,[C:1]([C:4](=[C:5]([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18])[N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:4]([N:6]([H:9])[H:10])([C:7](=[O:8])[H:11])[C:5]1([C:2]([H:14])([H:15])[H:19])[C:3]([H:16])([H:17])[H:18],66.78168750000097
MR_198734_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])=[O:8])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([N:7]([H:12])[H:13])([O:9][H:10])[H:11]>>[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([O:8][H:10])[H:11])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[C:6]([N:7]([H:12])[H:13])=[O:9],48.41288000000773
MR_235173_1,[C:1]1([O:6][H:9])([O:7][H:10])[C:2]([H:13])([H:14])[N:4]([H:12])[C:5](=[O:8])[N:3]1[H:11]>>[C:1]([C:2]([N:4](/[C:5](=[N:3]/[H:11])[O:8][H:10])[H:12])([H:13])[H:14])([O:6][H:9])=[O:7],59.19144749997443
